US04301166
20.2 g (0.297 mol) of imidazole are added to a solution of 9.5 g (0.175 mol) of sodium methylate in 49 ml of methyl alcohol. A slution of 44.3 g (0.135 mol) of 1-(4-biphenylyl)-2-chloro-1-(4-fluorophenyl)-ethanol in 103 mol of dimethylformamide is then added dropwise, and the reaction mixture is heated to 60° C. for 90 minutes. It is concentrated by distilling off the solvent in vacuo, and the residue is stirred with water. The crystals which remain are washed with acetonitrile and recrystallised from ethyl alcohol. 13.5 g (28% of theory) of 1-(4-biphenylyl)-1-(4-fluorophenyl)-2-(imidazol-1-yl)-ethanol of melting point 220° C. are obtained.

reactant | imidazole | 0.297 mol, 20.2 g | N1C=NC=C1 | C3H4N2
reactant | sodium methylate | 0.175 mol, 9.5 g | C[O-].[Na+]
reactant | 1-(4-biphenylyl)-2-chloro-1-(4-fluorophenyl)-ethanol | 0.135 mol, 44.3 g | C1(=CC=C(C=C1)C(CCl)(O)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C20H16ClFO
reactant | dimethylformamide | 103 mol | CN(C=O)C | C3H7NO
solvent | methyl alcohol | 49 ml | CO | CH4O
product | 1-(4-biphenylyl)-1-(4-fluorophenyl)-2-(imidazol-1-yl)-ethanol | 13.5 g, 28% | C1(=CC=C(C=C1)C(CN1C=NC=C1)(O)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C23H19FN2O
